US05939439
Step 3: 4-Bromomethyl-2-(2,2,2-trifluoro-ethoxy)-benzonitrile
2-(2,2,2-Trifluoro-ethoxy)-4-hydroxymethyl-benzonitrile (1.4 g, 6.1 mmol) was dissolved in THF (31 ml) and treated with Ph3P (2.4 g, 9.15 mmol) followed by CBr4 (3 g, 9.15 mmol). The reaction mixture was stirred at room temp. for 2 hours. The solvent was removed in vacuo and the residue purified by flash chromatography (20% EtOAc/Hexane) to yield the desired product.

reactant | 2-(2,2,2-Trifluoro-ethoxy)-4-hydroxymethyl-benzonitrile | 6.1 mmol, 1.4 g | FC(COC1=C(C#N)C=CC(=C1)CO)(F)F | C10H8F3NO2
reactant | Ph3P | 9.15 mmol, 2.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 9.15 mmol, 3 g | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 31 ml | C1CCOC1 | C4H8O
product | 4-Bromomethyl-2-(2,2,2-trifluoro-ethoxy)-benzonitrile | BrCC1=CC(=C(C#N)C=C1)OCC(F)(F)F | C10H7BrF3NO
